US04016269
At room temperature, a solution of 360 mg. of p-nitroperbenzoic acid in 2.5 ml. of tert.-butanol and 0.5 ml. of ethylene chloride is gradually added to 450 mg. of 3-hydroxy-18-methyl-1,3,5(10),16-estratetraene in 15 ml. of ethylene chloride. After 18 hours, the crude product is worked up as described in (A) and purified by preparative layer chromatography (eluent: hexane/ethyl acetate = 7 : 3). In this way, 310 mg. of 16α,17α-epoxy-3-hydroxy-18-methyl-1,3,5(10)-estratriene is isolated as an oily product.

reactant | p-nitroperbenzoic acid | [N+](=O)([O-])C=1C=CC(=CC1)C(=O)OO | C7H5NO5
reactant | tert.-butanol | C(C)(C)(C)O | C4H10O
reactant | 3-hydroxy-18-methyl-1,3,5(10),16-estratetraene | OC1=CC=2CC[C@H]3[C@@H]4CC=C[C@@]4(CC)CC[C@@H]3C2C=C1 | C19H24O
solvent | ethylene chloride | C(CCl)Cl | C2H4Cl2
product | 16α,17α-epoxy-3-hydroxy-18-methyl-1,3,5(10)-estratriene | O1[C@H]2[C@@H]1[C@]1(CC)[C@@H](C2)[C@@H]2CCC=3C=C(C=CC3[C@H]2CC1)O | C19H24O2
